US08071774B2
c) 5-Cyano-2-iodo-benzoic acid tert-butyl ester
8.9 mmol of 5-Cyano-2-iodo-benzoic acid [219841-92-6] is heated at reflux with 6 ml of thionyl-chloride and 1 drop of N,N-dimethylformamide until all the solid dissolves and there is no further gas evolution. The solution is cooled to room temperature and evaporated to dryness. The residue is treated with 32 mmol of dry tert-butyl alcohol and 49 mmol of dry pyridine in 5 ml of chloroform at 0° C. under an Ar atmosphere. After the addition, the mixture is refluxed overnight, cooled, and evaporated to dryness. From the residue the title compound is identified by means of flash chromatography (SiO2 60F) on the basis of the Rf value.

reactant | 5-Cyano-2-iodo-benzoic acid | 8.9 mmol | C(#N)C=1C=CC(=C(C(=O)O)C1)I | C8H4INO2
reactant | thionyl-chloride | 6 ml | S(=O)(Cl)Cl | Cl2OS
reactant | tert-butyl alcohol | 32 mmol | C(C)(C)(C)O | C4H10O
reactant | pyridine | 49 mmol | N1=CC=CC=C1 | C5H5N
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-Cyano-2-iodo-benzoic acid tert-butyl ester | C(C)(C)(C)OC(C1=C(C=CC(=C1)C#N)I)=O | C12H12INO2
